* PMOS diode-connected extraction
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
Vd dg 0 dc 0
Vs s  0 dc 1.8
Xp dg dg s s sky130_fd_pr__pfet_01v8 W=10u L=2u
.dc Vd 0 1.8 0.01
.control
run
let vsg = 1.8 - v(dg)
let id  = i(Vd)
wrdata pmos_iv.txt vsg id
.endc
.end
